US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 6-methoxychroman-4-carboxylic acid (0.54 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.7 g) as starting materials, N-[(4-dimethylaminophenyl) methyl]-N-(4-isopropylphenyl)-6-methoxychroman-4-carboxamide (0.3 g) was obtained. melting point: 82-84° C.

reactant | 6-methoxychroman-4-carboxylic acid | 0.54 g | COC=1C=C2C(CCOC2=CC1)C(=O)O | C11H12O4
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.7 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl) methyl]-N-(4-isopropylphenyl)-6-methoxychroman-4-carboxamide | 0.3 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCOC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | C29H34N2O3
